US04710585
Synthesis of optically active benzyloxyphenyl 6-methyloctyl ether
A 100-ml 4-neck flask was charged with 3.74 g of NaH (containing 50% of oil) and 50 ml of N,N-dimethylformamide, and a solution of 15.46 g of hydroquinone monobenzyl ether in 30 ml of N,N-dimethylformamide was added under a nitrogen current over a period of 20 minutes in an ice water bath. After 20 minutes, 16 g of optically active 1-bromo-6-methyloctane was added over a period of 45 minutes, and reaction was carried out at room temperature for 6 hours. The reaction mixture was extracted with ether. The ether layer was washed with water, 5% NaOH, water and a saturated aqueous solution of sodium chloride in sequence and dried, and the organic solvent was distilled under reduced pressure to obtain a crude product. The crude product was purified to obtain 24.37 g of an ether compound.

reactant | NaH | 3.74 g | [H-].[Na+]
reactant | hydroquinone monobenzyl ether | 15.46 g | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | 1-bromo-6-methyloctane | BrCCCCCC(CC)C | C9H19Br
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | benzyloxyphenyl 6-methyloctyl ether | CC(CCCCCOC1=C(C=CC=C1)OCC1=CC=CC=C1)CC | C22H30O2
